US04529732
A. N-Propyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol
Using the procedure of Example 5, 723 mg (1.46 mmole) of N-propionyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-propionyloxypiperidine and 129 mg (3.40 mmole) of lithium aluminum hydride gives 582 mg (88%) of the title compound as an oil.

reactant | N-propionyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-propionyloxypiperidine | 1.46 mmole, 723 mg | C(CC)(=O)N1[C@H](C[C@H](CC1)OC(CC)=O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C33H47NO4
reactant | lithium aluminum hydride | 3.40 mmole, 129 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-Propyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 582 mg, 88% | C(CC)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C30H45NO2
